* 6G5 (Brown Pro-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published Fender
* "Pro-Amp" Model 6G5 drawing's component values (see meta.yaml); no drawing
* reproduced. The drawing labels the preamp bottles 7025 — an alias for the
* 12AX7 (reference/tubes/12ax7.yaml also_known_as). The output tubes are
* printed 6L6GC and are simulated on the 6L6GC's own clean-room model,
* models/6l6gc.inc (reference/tubes/6l6gc.yaml), which carries that tube's
* 30 W / 500 V design-maximum ratings — the ones the load-line explorer
* overlays on this circuit's +456 V plate rail.
*
* DC conventions. B+1 is DRIVEN at the printed +456 V (6L6GC plates, OT primary
* DCR omitted, and the point the shared screen dropper hangs from) — the
* silicon-rectifier reservoir upstream of the choke is not modelled, exactly as a
* tube rectifier's own drop is not modelled elsewhere in the corpus. The bias
* supply (a filtered tap this drawing does not fully resolve — see notes.md) is
* replaced by an ideal -55 V source, as its AC/ripple-filtering role warrants:
* all 29 fixed-bias circuits documented here drive their bias supply from an
* ideal source instead of modelling the rectifier, 28 at the bias line itself
* and the 5G9 one node upstream, at the rectifier output, deriving its line
* through the drawing's own 82k/56k divider.
*
* One dropper downstream of B+1 is READ from the drawing (a 4700 Ohm-1W shared
* screen dropper) and MODELLED as a real resistor, so the screens' loaded
* operating point is solved, not assumed. Past that point the drawing prints a
* 56k-1W + 10k pair descending toward the phase-inverter/driver supply, but
* NOT which stages' currents that pair actually carries — chaining every
* downstream stage's current (PI + driver + all four preamp triodes) through
* it the way this corpus derives other amps' rails collapses it to a fraction
* of its printed value (tried, and wrong by ~4x; see notes.md), so it is not
* trustworthy as a literal series model here. BP3 (phase-inverter supply),
* BDRV (driver supply) and BD (the shared preamp rail) are therefore DRIVEN
* directly, each at its own value chosen to land its stage(s) near their
* printed plate readings — anchors, not derivations, exactly as amps/ab763
* drives BC directly rather than deriving it through the dropper between it
* and BP1. Every node fed from these three anchors is reported informational
* in voltages.yaml (BP3's own immediate loads at wide tolerance; BDRV's and
* BD's are chart: null) rather than gated, because the anchor values
* themselves are chosen to fit, not read.
*
* EXCLUDED — the tremolo oscillator (one 7025, not modelled as a bottle). It
* drives a lamp/photoresistor pair that shunts the channel-mixing node to
* ground: a running phase-shift oscillator has no static DC operating point,
* the same reasoning amps/ab763 documents for its own tremolo oscillator. Its
* printed pins (+120 V plate, +1.5 V cathode) are reported informational only.
*
* DC-open caps outside the checked wiring are not modelled; the tone stacks,
* volume pots, tremolo photocell and the PI-tail NFB/Presence network are
* abstracted networks that carry ~0 V DC and are omitted here. The first three
* do match every other amp in the corpus: no netlist here models a tone-stack
* network or a tremolo photocell, and a volume control reaches a netlist only
* as the leak resistor standing for the grid below it (RG1B and RG2B here).
* The NFB/Presence network is the exception, and omitting it is this circuit's
* own choice rather than a house rule: nine of the 41 documented circuits
* model part of a feedback or presence network as real resistors — the 6G3,
* 6G6-B, AB763 Twin, AA864, JTM100 and DR103 hang it on a long-tailed-pair
* tail, the 5F10, AA964 and AA1164 on a cathodyne cathode. Here the two nodes
* it would move — the shared PI cathode KPI and the tail junction JPI — are
* reported informational (chart: null) rather than gated, so leaving it out
* costs nothing that is checked.
.include models/12ax7.inc
.include models/6l6gc.inc

VBP1 BP1 0 DC 456
VBIAS NBIAS 0 DC -55

* --- Rail chain ---
* B+1 -> shared screen dropper (read) -> BP2 (screens node, printed +430 V)
RDSCR BP1 BP2 4700
* BP3 (phase-inverter supply), BDRV (driver supply) and BD (shared preamp
* rail) are DRIVEN anchors — see header note. The drawing gives no reason to
* think the PI, driver and preamp stages share one literal node, so each gets
* its own anchor rather than forcing three different loads onto one value;
* each figure below is chosen to land its stage near its own printed plate
* reading, not a read figure itself.
VBP3 BP3 0 DC 410
VBDRV BDRV 0 DC 480
VBD  BD  0 DC 300

* --- Output stage: two 6L6GC, fixed bias, grounded cathodes ---
* Individual 470 Ohm-1W screen stoppers off the shared BP2 screens node.
RGL1 NBIAS G71 220k
RSC1 BP2 S71 470
XV7 BP1 S71 G71 0 6L6GC
RGL2 NBIAS G72 220k
RSC2 BP2 S72 470
XV8 BP1 S72 G72 0 6L6GC

* --- Long-tailed-pair phase inverter (V6), off BP3 ---
* 82k (hot, tone-stack/driver-fed side) / 100k (cold) plate loads; 820 Ohm
* shared cathode into a 6.8k tail to ground; 1M grid leaks to the tail
* junction (standard corpus value for this topology — the drawing's own grid-
* leak figure was not legible at this node; flagged in notes.md).
*
* The tail foot. The drawing hangs three things on it: a 1500 Ohm FOOT resistor
* to ground, a 5k-L Presence pot in series with a 0.1 uF cap paralleling that
* foot resistor, and a 22k negative-feedback resistor back to the OT secondary.
* Only the pot branch is genuinely DC-neutral — the cap blocks DC. The 1500 and
* the feedback resistor's return through the secondary do carry the tail's DC,
* so folding them into ground and modelling the tail as a bare 6.8k to node 0
* is a declared SIMPLIFICATION, not a claim that they are DC-neutral: the real
* foot is 1500 || ~22k, about 1.4k, which this model omits. Nothing gated turns
* on it (voltages.yaml reads KPI and JPI as informational, chart: null), and the
* schematic declares the same abstraction in sch_map.yaml series_bridge.
RLA BP3 PPIA 82k
XV6A PPIA GPIA KPI 12AX7
RGA GPIA JPI 1meg
RLB BP3 PPIB 100k
XV6B PPIB GPIB KPI 12AX7
RGB GPIB JPI 1meg
RTAIL KPI JPI 820
RT2 JPI 0 6.8k

* PI-plate -> output-grid coupling caps (0.05u printed, DC-open). Modelled so
* a future layout's inter-stage routing and push-pull phase can be checked
* natively; each 6L6GC grid still sits at -55 V through its 220k leak, so the
* op point is unmoved.
C1 PPIA G71 0.05u
C2 PPIB G72 0.05u

* --- Driver stage (V5), off BDRV — INFORMATIONAL (see header note) ---
* 100k plate load, 820 Ohm cathode (25 uF bypass); grid returns to ~0 V DC
* through the tremolo/mixing node's 1M leak. The drawing's local feedback
* network around this stage (470k/220k/2500pF) is not modelled.
RL5 BDRV P5 100k
XV5 P5 G5 K5 12AX7
RG5 G5 0 1meg
RK5 K5 0 820
CK5 K5 0 25u

* --- Channel 1 (Normal), off the shared preamp rail BD — INFORMATIONAL ---
* Stage 1: 100k plate / 820 Ohm cathode (25+25 uF split bypass), printed
* +170 V / +1.4 V. Grid returns to ground through the input jacks' 1M leak.
RL1A BD P1A 100k
XV1A P1A G1A K1A 12AX7
RG1A G1A 0 1meg
RK1A K1A 0 820
CK1A K1A 0 50u
* Stage 2: 100k plate, printed +160 V. Grid DC-referred to ~0 V through the
* volume pot (abstracted). Cathode network not resolved from the scan; 1.5k
* is a placeholder typical of this era's second gain stages, not a read value.
RL1B BD P1B 100k
XV1B P1B G1B K1B 12AX7
RG1B G1B 0 1meg
RK1B K1B 0 1.5k
CK1B K1B 0 25u

* --- Channel 2 (Bright), off the shared preamp rail BD — INFORMATIONAL ---
* Mirrors channel 1. Stage 2 prints +120 V rather than +160 V; both are
* informational so the asymmetry is reported, not resolved by force.
RL2A BD P2A 100k
XV2A P2A G2A K2A 12AX7
RG2A G2A 0 1meg
RK2A K2A 0 820
CK2A K2A 0 50u
RL2B BD P2B 100k
XV2B P2B G2B K2B 12AX7
RG2B G2B 0 1meg
RK2B K2B 0 1.5k
CK2B K2B 0 25u
